US05705691
a) Preparation of 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzamide
Into a 3 neck round bottom flask fitted with condenser and dropping funnel was added 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzoyl chloride (19.8 g 0.059 mol) and toluene (80 ml). The mixture was cooled in an ice bath to about 5° C. then ammonia solution 32% (15.6 g, 0.29 mol) was added dropwise. A yellow/orange precipitate formed and the mixture was stirred vigorously for 3 hours. The mixture was then extracted with toluene (200 ml) and washed with water (80 ml). The organic layer was separated, dried (MgSO4), filtered and the solvent removed in vacuo. The resulting solid was then triturated with hexane to afford the product as a white solid (16.5 g, 91%). IR 1652 cm-1 (amide C=O), 3376 and 3191 cm-1 (N--H str);

reactant | 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzoyl chloride | 0.059 mol, 19.8 g | ClC1=C(C=CC(=C1)OC=1C=C(C(=O)Cl)C=CC1)C(F)(F)F | C14H7Cl2F3O2
reactant | ammonia | 0.29 mol, 15.6 g | N | H3N
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-chloro-α,α,α-trifluoro-4-tolyloxy) benzamide | 16.5 g, 91% | ClC1=C(C=CC(=C1)OC=1C=C(C(=O)N)C=CC1)C(F)(F)F | C14H9ClF3NO2
